US05958942
ii) Synthesis of 3-hydroxymethyl-5-[N-tert-butoxycarbonyl-N-(3-trifluoromethanesulfonamidopropan-1-yl)aminomethyl]imidazo[1,2-a]pyridine
To a solution of 396 mg (0.80 mmol) of 3-carbomethoxy-5-[N-tert-butoxycarbonyl-N-(3-trifluoromethane-sulfonamidopropan-1-yl)aminomethyl]imidazo[1,2-a]pyridine in a mixture of 5.0 ml of THF and 1.0 ml of methanol was added, at room temperature, 87.12 mg (4.00 mmol) of lithium borohydride with small portions. The mixture was heated for 30 minutes under reflux. The reaction mixture was cooled to room temperature, and poured into ice-water. The mixture was neutralized with 1N HCl, and extracted with 50 ml of chloroform. The organic layer was washed with 50 ml of a saturated aqueous saline solution, which was dried over magnesium sulfate. The solvent was then distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent; chloroform:methanol=20:1) to afford 269 mg of the desired compound (72%, a pale yellow liquid).

reactant | 3-carbomethoxy-5-[N-tert-butoxycarbonyl-N-(3-trifluoromethane-sulfonamidopropan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 0.80 mmol, 396 mg | C(=O)(OC)C1=CN=C2N1C(=CC=C2)CN(CCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C19H25F3N4O6S
reactant | lithium borohydride | 4.00 mmol, 87.12 mg | [BH4-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
solvent | methanol | 1.0 ml | CO | CH4O
product | 3-hydroxymethyl-5-[N-tert-butoxycarbonyl-N-(3-trifluoromethanesulfonamidopropan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 269 mg | OCC1=CN=C2N1C(=CC=C2)CN(CCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C18H25F3N4O5S
